* C:\Users\pavlos\AppData\Local\LTspice\my\schematics\Hybrid\DFF_posedge\DFF_p.asc
*
* posedge D FF 2 inputs
* 1 D
* 2 Clk
* 3 Q
* 4 ~Q
* 5 Vdd
* 6 Vss
*
.subckt dff_p 1 2 3 4 5 6
XU3 N003 4 3 5 6 nand
XU4 3 N004 4 5 6 nand
XU5 N001 N003 N002 5 6 nand
XU6 N002 2 N003 5 6 nand
XU7 N004 1 N001 5 6 nand
XU8 N003 2 N001 N004 5 6 nand3
C1 1 6 {C}
C2 2 6 {C}
C3 3 6 {C}
C4 4 6 {C}
.lib C:\Users\pavlos\AppData\Local\LTspice\my\schematics\Hybrid\NAND_3\nand3.lib
.lib C:\Users\pavlos\AppData\Local\LTspice\my\schematics\Hybrid\NAND_2\nand.lib
.param C 0.1p
.backanno
.ends dff_p
